US07910561B2
To a solution of 2-(1H-imidazol-4-yl)pyridine (0.87 g, 6 mmol) in DMF (12 mL) at 0° C. was added sodium hydride (346 mg, 7.2 mmol). The reaction mixture was allowed to warm to room temperature and stirred for an additional 20 min. tert-Butyl 4-[(methylsulfonyl)oxy]piperidine-1-carboxylate (1.34 g, 4.8 mmol) was added and the resulting mixture was heated at 80° C. for 48 h. The reaction was cooled to room temperature, diluted with CH2Cl2, and washed with water and brine. The combined organic layers were dried over magnesium sulfate and the solvents removed in vacuo. The residue was purified by silica gel chromatography (0%-100% MeOH/CH2Cl2) and then by HPLC (phenomenex column, 30%-100% acetonitrile/water+0.1% TFA) to afford tert-butyl 4-(4-pyridin-2-yl-1H-imidazol-1-yl)piperidine-1-carboxylate as an oil. 1H NMR (500 MHz, CD3OD) δ 8.88 (m, 1H), 8.70 (m, 1H), 8.40 (m, 1H), 8.10 (m, 1H), 8.00 (m, 1H), 7.55 (m, 1H), 4.58 (m, 1H), 4.32 (m, 2H), 3.01 (m, 2H), 2.24 (m, 2H), 2.00 (m, 2H), 1.49 (s, 9H).

reactant | 2-(1H-imidazol-4-yl)pyridine | 6 mmol, 0.87 g | N1C=NC(=C1)C1=NC=CC=C1 | C8H7N3
reactant | sodium hydride | 7.2 mmol, 346 mg | [H-].[Na+]
reactant | tert-Butyl 4-[(methylsulfonyl)oxy]piperidine-1-carboxylate | 4.8 mmol, 1.34 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-pyridin-2-yl-1H-imidazol-1-yl)piperidine-1-carboxylate | N1=C(C=CC=C1)C=1N=CN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O2
